US06194410B1
0.67 g (7.7 mmol) of piperazine in 10 ml of DMF was added to a solution of 1.23 g (3.1 mmol) of 3-benzenesulphonyl-5-tert-butyl-7-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine in 10 ml of DMF and stirred at RT for 2 hrs. The reaction solution was evaporated and the residue was partitioned between 2N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2, and the combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (SiO2, CH2Cl2/MeOH 19:1) and crystallization from EtOH yielded 0.25 g (18%) of 3-benzenesulphonyl-5-tert-butyl-2-methylsulphanyl-7-piperazin-1-yl-pyrazolo[1,5-a]pyrimidine as colorless crystals, m.p. 236-237°.

reactant | piperazine | 7.7 mmol, 0.67 g | N1CCNCC1 | C4H10N2
reactant | 3-benzenesulphonyl-5-tert-butyl-7-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 3.1 mmol, 1.23 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)C(C)(C)C)SC | C17H18ClN3O2S2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-benzenesulphonyl-5-tert-butyl-2-methylsulphanyl-7-piperazin-1-yl-pyrazolo[1,5-a]pyrimidine | 0.25 g, 18% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCNCC2)C(C)(C)C)SC | C21H27N5O2S2
